US04681883
A mixture of 3-(piperidinomethyl)phenol (7 g), chloroacetonitrile (2.77 g) and potassium carbonate (5.06 g) in dry acetone (100 ml) was stirred under reflux overnight. The reaction mixture was filtered and the filtrate was evaporated to give a residue which was subjected to column chromatography on silica using chloroform:methanol (20:1) as eluant to afford 3-(piperidinomethyl)phenoxyacetonitrile (5.6 g).

reactant | 3-(piperidinomethyl)phenol | 7 g | N1(CCCCC1)CC=1C=C(C=CC1)O | C12H17NO
reactant | chloroacetonitrile | 2.77 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 5.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3-(piperidinomethyl)phenoxyacetonitrile | 5.6 g | N1(CCCCC1)CC=1C=C(OCC#N)C=CC1 | C14H18N2O
